US07951963B2
To toluene (25 mL) suspension of 0.16 g of dichlorobis(triphenylphosphine)palladium(II) were added 0.12 g of triphenylphosphine, 0.01 g of sodium borohydride, 5.79 g of potassium tert-butoxide and 2.92 g of ethyl cyanoacetate, which was then stirred at room temperature for 10 minutes. Thereto were added 5.00 g of 5-bromobenzothiophene and 25 mL of toluene, which was then refluxed for 4 hours. Thereto was added 0.14 g of tetrakis(triphenylphosphine)palladium(0), which was then refluxed for 2 hours. Next, to the reaction solution were added 25 mL of ethanol, 2.82 g of sodium hydroxide and 5 mL of water, which was then refluxed for 6 hours. Thereto was added 2.82 g of sodium hydroxide, which was then refluxed for 5 hours. To the reaction mixture were added 15 mL of water and 0.5 g of activated carbon, and insoluble matter was filtered off. The aqueous layer was separated, and to the solution was added 35 mL of ethanol. The pH was adjusted to 2 with 15 mL of hydrochloric acid. Thereto was added 15 mL of water, which was then stirred at 40° C. Thereto was added 30 mL of water, which was stirred. After that, it was cooled. The precipitate was collected by filtration to provide 3.38 g of 2-(1-benzothiophen-5-yl)acetic acid as pale yellow solid form.

reactant | potassium tert-butoxide | 5.79 g | CC(C)([O-])C.[K+]
reactant | ethyl cyanoacetate | 2.92 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | 5-bromobenzothiophene | 5.00 g | BrC=1C=CC2=C(C=CS2)C1 | C8H5BrS
reactant | sodium hydroxide | 2.82 g | [OH-].[Na+]
reactant | sodium hydroxide | 2.82 g | [OH-].[Na+]
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.16 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.14 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | triphenylphosphine | 0.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | sodium borohydride | 0.01 g | [BH4-].[Na+]
solvent | water | 15 mL | O | H2O
solvent | water | 5 mL | O | H2O
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(1-benzothiophen-5-yl)acetic acid | 3.38 g | S1C=CC2=C1C=CC(=C2)CC(=O)O | C10H8O2S
